US05859034
(R)-4-{2-[3,4-Bis(difluoromethoxy)phenyl]-2-(4-{[(cyanoimino)(methylsulphanyl)methyl]amino}phenyl)ethyl}pyridine
To a solution of 4-[1-(R)-(3,4 bis(difluoromethoxy)phenyl)-2-(4-pyridinyl)ethyl]aniline (1.8 g, 4.4 mmol) in ethanol (20 ml) at room temperature was added dimethylcyanodithioimidocarbonate (1.3 g, 8.9 mmol). The mixture was heated at 70° for 72 h, cooled and the solvent removed in vacuo to give a yellow foam. The foam was subjected to flash chromatography (SiO2 ; eluant ethyl acetate) to give the title compound as a yellow foam (1.2 g). 1Hnmr (300 MHz, CDCl3) δ 2.46 (3H, s), 3.30 (2H, d, J 7.98 Hz), 4.23 (1H, t, J 7.84 Hz), 6.46 (1H, t, J 73.58 Hz), 6.48 (1H, t, J 73.51 Hz), 6.90 (2H, d, J 6.0 Hz), 7.02 (1H, d, J 8.38 Hz), 7.06 (1H, br), 7.16 (1H, d, J 3.0 Hz), 7.16 (1H, d, J 3.0 z), 7.18-7.25 (3H, c), 8.10 (1H, br) and 8.40 (2H, d, J 6.03 Hz).

reactant | 4-[1-(R)-(3,4 bis(difluoromethoxy)phenyl)-2-(4-pyridinyl)ethyl]aniline | 4.4 mmol, 1.8 g | FC(OC=1C=C(C=CC1OC(F)F)[C@H](CC1=CC=NC=C1)C1=CC=C(N)C=C1)F | C21H18F4N2O2
reactant | dimethylcyanodithioimidocarbonate | 8.9 mmol, 1.3 g | CSC(SC)=NC#N | C4H6N2S2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (R)-4-{2-[3,4-Bis(difluoromethoxy)phenyl]-2-(4-{[(cyanoimino)(methylsulphanyl)methyl]amino}phenyl)ethyl}pyridine | 1.2 g | FC(OC=1C=C(C=CC1OC(F)F)[C@H](CC1=CC=NC=C1)C1=CC=C(C=C1)NC(SC)=NC#N)F | C24H20F4N4O2S
